US04405810
7-[p-(n-octyl)phenyl]hept-5-ynoic acid
7-[p-(n-octyl)phenyl]-5-heptyn-1-ol (1.7 mmole) is dissolved in dimethyl formamide and to the resulting solution is added, with stirring, pyridinium dichromate (11.7 mmoles). After stirring for 48 hours at room temperature, the reaction mixture is poured onto a 10% sodium hydroxide solution and extracted with ethyl ether. The aqueous layer is acidified to pH of 2-3 with concentrated hydrochloric acid and extracted with chloroform. The chloroform layer is separated, the solvents removed by evaporation and the residue distilled under reduced pressure to afford the title compound, 7-[p-(n-octyl)phenyl]hept-5-ynoic acid.

reactant | 7-[p-(n-octyl)phenyl]-5-heptyn-1-ol | 1.7 mmole | C(CCCCCCC)C1=CC=C(C=C1)CC#CCCCCO | C21H32O
reactant | pyridinium dichromate | 11.7 mmoles | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 7-[p-(n-octyl)phenyl]hept-5-ynoic acid | C(CCCCCCC)C1=CC=C(C=C1)CC#CCCCC(=O)O | C21H30O2
